US04877444
A solution of 3-chloro-2-(2,4-difluorophenyl)-4,5,6,7-tetrahydro-2H-indazole (217 g) in conc. sulfuric acid (1 kg) was cooled to 5° C., and 99% nitric acid (67 g) was dropwise added thereto at a temperature below about 10° C., followed by stirring for 3 hours. After completion of the reaction, the reaction mixture was added to ice-water (10 kg), and the precipitated crystals were collected by filtration, washed and dried to give 3-chloro-2-(2,4-difluoro-5-nitrophenyl)-4,5,6,7-tetrahydro-2H-indazole (227 g). m.p., 117°-118° C. (decomp.).

reactant | 3-chloro-2-(2,4-difluorophenyl)-4,5,6,7-tetrahydro-2H-indazole | 217 g | ClC=1N(N=C2CCCCC12)C1=C(C=C(C=C1)F)F | C13H11ClF2N2
reactant | nitric acid | 67 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 1 kg | S(O)(O)(=O)=O | H2O4S
product | 3-chloro-2-(2,4-difluoro-5-nitrophenyl)-4,5,6,7-tetrahydro-2H-indazole | 227 g | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C13H10ClF2N3O2
